US06593322B1
A. 2-(4-Fluorophenyl)-6-(phenylmethoxy)-1-[(4-(4-pyridyl)phenyl)methyl]-1,2,3,4-tetrahydroisoquinoline
To a solution of 1-(4-bromobenzyl)-6-phenylmethoxy-2-(4-fluorophenyl)-1,2,3,4-tetrahydroisoquinoline (500 mg, 1 mmol) in ethylene glycol dimethyl ether (15 mL) was added potassium phosphate (2.12 g, 10 mmol) and pyridine-4-boronic acid (185 mg, 1.5 mmol). The reaction mixture was heated to 90° C. for 18 hours under nitrogen. The resulting mixture was concentrated and water added and extracted with ethyl acetate. The organic layer was dried using sodium sulfate, filtered and concentrated to give a crude black oil. The oil was purified by column chromatography (SiO2, 40% ethyl acetate/hexanes) to provide the title compound (260 mg, 50% yield): ES-MS (m/z) 501 [M+H]+, 1H NMR (CDCl3) δ 8.64 (d, 2H), 7.49 (m, 4H), 7.38 (m, 5H), 7.13 (d, 2H), 6.92 (t, 2H), 6.78 (m, 3H), 6.72 (s, 2H), 5.04 (s, 2H), 4.79 (t, 1H), 3.59 (m, 1H), 3.49 (m, 2H), 3.22 (m, 1H), 3.01 (m, 1H), 2.71 (t, 1H).

reactant | 1-(4-bromobenzyl)-6-phenylmethoxy-2-(4-fluorophenyl)-1,2,3,4-tetrahydroisoquinoline | 1 mmol, 500 mg | BrC1=CC=C(CC2N(CCC3=CC(=CC=C23)OCC2=CC=CC=C2)C2=CC=C(C=C2)F)C=C1 | C29H25BrFNO
reactant | potassium phosphate | 10 mmol, 2.12 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | pyridine-4-boronic acid | 1.5 mmol, 185 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
solvent | ethylene glycol dimethyl ether | 15 mL | COCCOC | C4H10O2
product | 2-(4-Fluorophenyl)-6-(phenylmethoxy)-1-[(4-(4-pyridyl)phenyl)methyl]-1,2,3,4-tetrahydroisoquinoline | 260 mg, 50% yield | FC1=CC=C(C=C1)N1C(C2=CC=C(C=C2CC1)OCC1=CC=CC=C1)CC1=CC=C(C=C1)C1=CC=NC=C1 | C34H29FN2O
